US05376680
Using an analogous procedure to that described in Example 1, acetone oxime was reacted with 4-[3-(4-chloromethylbenzyloxy)-5-fluorophenyl]-4-methoxytetrahydropyran to give acetone O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenoxymethyl]benzyl}oxime as a gum in 72% yield.

reactant | acetone oxime | CC(C)=NO | C3H7NO
reactant | 4-[3-(4-chloromethylbenzyloxy)-5-fluorophenyl]-4-methoxytetrahydropyran | ClCC1=CC=C(COC=2C=C(C=C(C2)F)C2(CCOCC2)OC)C=C1 | C20H22ClFO3
product | acetone O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenoxymethyl]benzyl}oxime | 72% yield | FC=1C=C(C=C(OCC2=CC=C(CON=C(C)C)C=C2)C1)C1(CCOCC1)OC | C23H28FNO4
